US08461407B2
Isododecane
300.0 g Lial® 123 (isododecanol from Sasol) and 18.0 g trifluoromethanesulfonic acid (50% by weight in water) were introduced into a distillation apparatus and heated for 1.5 h to 240° C. The organic phase of the distillate obtained (171.9 g) was dried over sodium sulfate and the product was isolated by filtration). The product then contained 91.5% isododecene, 7.5% Lial® 123 and 1.0% didodecyl ether (GC analysis).

reactant | isododecanol | C(CCCCCCCCC(C)C)O | C12H26O
reactant | trifluoromethanesulfonic acid | 18.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | isododecene | C=CCCCCCCCC(C)C | C12H24
reactant | didodecyl ether | C(CCCCCCCCCCC)OCCCCCCCCCCCC | C24H50O
product | Isododecane | CCCCCCCCCC(C)C | C12H26
